US04280835
3-Trifluoromethyl-4-(2-naphthyloxy)aniline (9.1 g) was dissolved in 200 ml of toluene, and 30 ml of 40% aqueous sodium hydroxide solution and 6.5 g of N,N-dimethylcarbamyl chloride were added thereto. The reaction mixture was heated under reflux for 10 hours and then cooled to room temperature. The toluene layer was washed with water, the solvent was removed by distillation under reduced pressure and the residue was recrystallized from ethanol to obtain 5.1 g of N'-[3-trifluoromethyl-4-(2-naphthyloxy)phenyl]-N,N-dimethylurea as white needles. M.P. 210°-211° C.

reactant | 3-Trifluoromethyl-4-(2-naphthyloxy)aniline | 9.1 g | FC(C=1C=C(N)C=CC1OC1=CC2=CC=CC=C2C=C1)(F)F | C17H12F3NO
reactant | sodium hydroxide | 30 ml | [OH-].[Na+]
reactant | N,N-dimethylcarbamyl chloride | 6.5 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | N'-[3-trifluoromethyl-4-(2-naphthyloxy)phenyl]-N,N-dimethylurea | 5.1 g | FC(C=1C=C(C=CC1OC1=CC2=CC=CC=C2C=C1)NC(N(C)C)=O)(F)F | C20H17F3N2O2
